US05569654
(+)-2-{3-[-3-(3-Methoxy-phenyl)-ureido]-5-morpholin-4-ylmethyl-2-oxo-2,3-dihydro-benzo [e][-1,4]diazepin-1-yl}-N-methyl-N-phenyl-acetamide hydrochloride salt
A solution of the (+)-2-{3-[3-(3-Methoxy-phenyl)-ureido]-5-morpholin-4-ylmethyl 2-oxo-2,3-dihydro-benzo [e][1,4]diazepin-1-yl}-N-methyl-N-phenyl-acetamide (200 mg) in dry DCM (20 ml) under nitrogen was treated with 1M hydrogen chloride in diethyl ether (0.77 ml) and the solution was stirred for 5 min. The solvent was removed in vacuo and the residue azeotroped with toluene (2×10 ml) to give the title compound (215 mg) as a pale straw coloured solid, m.p. 160°-170° dec.

reactant | (+)-2-{3-[3-(3-Methoxy-phenyl)-ureido]-5-morpholin-4-ylmethyl 2-oxo-2,3-dihydro-benzo [e][1,4]diazepin-1-yl}-N-methyl-N-phenyl-acetamide | 200 mg | COC=1C=C(C=CC1)NC(NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C)C=CC=C2)CN2CCOCC2)=O | C31H34N6O5
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 0.77 ml | C(C)OCC | C4H10O
product | (+)-2-{3-[-3-(3-Methoxy-phenyl)-ureido]-5-morpholin-4-ylmethyl-2-oxo-2,3-dihydro-benzo [e][-1,4]diazepin-1-yl}-N-methyl-N-phenyl-acetamide hydrochloride salt | 215 mg | Cl.COC=1C=C(C=CC1)NC(NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C)C=CC=C2)CN2CCOCC2)=O | InChI=1S/C31H34N6O5.ClH/c1-35(23-10-4-3-5-11-23)28(38)21-37-27-14-7-6-13-25(27)26(20-36-15-17-42-18-16-36)33-29(30(37)39)34-31(40)32-22-9-8-12-24(19-22)41-2;/h3-14,19,29H,15-18,20-21H2,1-2H3,(H2,32,34,40);1H
